2123-12-25 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2123-12-25**] 12:04 AM
 ARTERIAL LINE - START [**2123-12-25**] 02:51 AM
   - On floor, still hypotensive with stabilizing hematocrit; continue
   blood transfusion pRBC #6 with fluid resuscitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-25**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 80 (78 - 85) bpm
   BP: 84/67(71) {71/50(55) - 111/80(87)} mmHg
   RR: 14 (13 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,034 mL
                                                                  3,196 mL
   PO:
           TF:
   IVF:
                                                                     34 mL
                                                                  2,541 mL
   Blood products:
   655 mL
   Total out:
                                                                    300 mL
                                                                    417 mL
   Urine:
                                                                    300 mL
                                                                    417 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,734 mL
                                                                  2,779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 62
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.33/34/159/20/-6
   Ve: 7.1 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   295 K/uL
   10.1 g/dL
   181
   1.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   76 mg/dL
   109 mEq/L
   136 mEq/L
   27.7 %
   23.3 K/uL
        [image002.jpg]
                             [**2123-12-24**]  09:45 PM
                             [**2123-12-24**]  09:54 PM
                             [**2123-12-25**]  12:10 AM
                             [**2123-12-25**]  12:26 AM
                             [**2123-12-25**]  03:37 AM
                             [**2123-12-25**]  04:00 AM
                             [**2123-12-25**]  05:51 AM
   WBC
   21.4
   23.3
   Hct
   28.6
   32
   29.3
   27.7
   Plt
   322
   295
   Cr
   1.2
   TCO2
   19
   Glucose
   173
   158
   181
   Other labs: PT / PTT / INR:15.2/31.5/1.3, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:6.7 mg/dL, Mg++:1.5 mg/dL, PO4:4.0 mg/dL
   [**12-25**] CXR
 Final read pending;
   [**12-24**] CT abdomen
 Final read pending; no aortoenteric fistula
   Assessment and Plan
   [**Age over 90 **] yo F s/p fall on [**12-13**] with recent left total hip replacement on
   Aspirin and Lovenox with episode of hematemesis and hematocrit 16 with
   guaiac positive stool.
   .
   # Upper GI bleed: Hct 16.6 down from baseline in low 30s last year.
   Etiologies include GIB given guaiac positive stool, active blood loss
   at surgical site given recent THR, hematemesis. Small concern for
   aorto-enteric fistula as has had in past.  Concern for varicoele bleed,
   gastritis, PUD.
   - GI consult - EGD in unit tonight
   - Continue massive transfusion protocol, hct > 25-28
   - Trend hematocrit q4hr
   - Maintain active type and screen
   - Volume resuscitation with blood and fluids
   .
   # Respiratory: Patient indubated semi-electivly for GI procedure.
   Prior she has expressed with to be DNR/DNI.  She agreed to be intubated
   for her EGD.  Currently she is satting well on 50% FiO2 and a PEEP of
   5.  She did appear volume up on CXR after receiving blood products.
   -While in the setting of hypotension and patient is intubated will
   continue to volume replete.  If desats will increase PEEP first then
   FiO2.
   -Once HD stable can gently diurese to wean off vent, but will hold for
   now.
   .
   # s/p left total hip replacement: Recent surgery likely contributing to
   anemia.
   - Follow up surgery recs regarding trauma
   - Currently holding anticoagulation in the setting of GI bleed.  Will
   have to discuss with Orhto what to antcoagulate with given Gi bleed.
   -PT when Extubated.
   .
   # CAD/Chest pain: Signs of demand ischemia on EKG. Will re-assess
   - Continue massive transfusion protocol, hct > 21
   .
   # CHF: EF is 30-35% based on echo in 08.  Likely ischemic.  Currently
   needs fluids and blood.  Intubated and on low PEEP.  If trouble will
   increase PEEP. Hold diuretics for now.
   .
   # A fib: Currently rate controlled.  Will continue to give volume
   overnight.  If tachy likely sign of re-bleeding and will need more
   blood.  Hold on AV nodal agents overnight in setting of hypotension.
   # FEN: IVF bolus, replete electrolytes prn, NPO for procedure
   # Prophylaxis: Pneumoboots, no subcutaneous heparin [**1-18**] bleed
   # Access: PIVs, cordis
   # Communication: Patient
   # Code:  Full (need to clarify with family as concern previously about
   DNR/DNI)
   # Disposition: ICU pending clinical improvement
   *****
   Acute blood loss anemia with hypotension
 severe UGI bleed, likely
   from bleeding antral ulcers.
   - Transfuse prn, keeping Hct 25-29, check Hct q4h, GI would repeat
   endoscopy
   - Follow coags, platelets, unlikely septic, leukocytosis likely stress
   response.
   Hypotension
 likely from hemorrhage +/- volume depletion. Will give NS
   though has signs of CHF. [**Month (only) 8**] need to increase Peep/FiO2. Doubt need for
   pressors. Would aim to keep MAP >65
   Pt has been DNR but accepted intubation for procedure. Will need to
   clarify code status going forward. If DNR directive is confirmed, would
   not escalate care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2123-12-25**] 12:04 AM
   20 Gauge - [**2123-12-25**] 12:18 AM
   Arterial Line - [**2123-12-25**] 02:51 AM
   18 Gauge - [**2123-12-25**] 03:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-12-26 07:12:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
   - HCT: (27 ->33 -> 36 -> 34 -> 33)
   - Urine output: 150cc every 2 hours.
   - 0G tube placed. Suction with blood.
   - GI Recs: Nothing New.
   - Surgery Recs: Treat for H.Pylori Amoxicillin 1Gram [**Hospital1 **],
   Clarithromycin 500mg [**Hospital1 **], PPI for 7-14 days. Start therapy when taking
   POs.
   - CTA Abdomen: Prelim no aortoenteric fistula, called with mild changes
   in the colon - question of colitis.
   - Family Meeting: DNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 77 (77 - 86) bpm
   BP: 66/43(52) {55/36(45) - 87/68(78)} mmHg
   RR: 15 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 75 kg
             Total In:
                                                                  4,643 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                  3,893 mL
                                                                    154 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,727 mL
                                                                    860 mL
   Urine:
                                                                  1,527 mL
                                                                    510 mL
   NG:
                                                                    200 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,916 mL
                                                                   -706 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 512 (436 - 521) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///17/
   Ve: 7.3 L/min
   Physical Examination
   General: Easy aroused to full alertness. Able to follow instructions
   (single step only tested). No acute distress. BMI likely WNLs,
   intubated. OG-tube in place and drained small quantity of rusted mucus.
   Looks younger than stated age.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Some coarse sounds, mostly transmitted. Copious secretions.
   CV: Regular rate and rhythm, normal S1 + S2, systolic ejection murmur
   radiates to neck. No rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Able to move hands to request. CNs II-XII intact.
   Labs / Radiology
   283 K/uL
   11.4 g/dL
   109 mg/dL
   1.3 mg/dL
   17 mEq/L
   3.9 mEq/L
   68 mg/dL
   119 mEq/L
   143 mEq/L
   33.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2123-12-25**]  12:10 AM
                             [**2123-12-25**]  12:26 AM
                             [**2123-12-25**]  03:37 AM
                             [**2123-12-25**]  04:00 AM
                             [**2123-12-25**]  05:51 AM
                             [**2123-12-25**]  08:34 AM
                             [**2123-12-25**]  11:48 AM
                             [**2123-12-25**]  05:20 PM
                             [**2123-12-25**]  11:41 PM
                             [**2123-12-26**]  05:30 AM
   WBC
   23.3
   18.3
   Hct
   29.3
   27.7
   33.4
   36.3
   34.0
   33.0
   33.0
   Plt
   295
   283
   Cr
   1.2
   1.3
   TCO2
   19
   Glucose
   173
   158
   181
   109
   Other labs: PT / PTT / INR:21.2/33.3/2.0, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR :
   Microbiology: MRSA screen pending.
   Assessment and Plan
   [**Age over 90 **] yo F s/p fall on [**12-13**] with recent left total hip replacement on
   Aspirin and Lovenox with episode of hematemesis and hematocrit 16 with
   guaiac positive stool and GI EGD with non-bleeding ulcerations in
   antrum and clots.
   # Upper GI Bleed
   EGD revealed antral ulcers, most consistent with H. pylori infection.
   This, in conjunction with ASA and lovenox s/p hip repair, likely
   resulted in UGIB. Hct 16.6 at presentation, down from baseline in low
   30s last year. OG demonstrated blood in stomach to complete picture.
   - Appreciate GI recommendations; will continue to follow, continue
   serial hematocrit
   - Continue transfusion hct goal > 21, or evidence of end-organ hypoxia
   - Continue to trend hematocrit, now [**Hospital1 **]
   - Maintain active type and screen
   - Maintain good access
   - Continue to assess BPs on right vs left and volume resuscitation with
   blood/fluid based on clinical status, MAP >65
   # Respiratory
   Patient is DNR/DNI, but we confirmed with her nephew that it would be
   acceptable to re-intubate in the peri-extubation period. She agreed to
   be intubated for her EGD. She has been doing well with minimal pressure
   support. She appeared volume up on CXR after receiving blood products.
   - Extubate
   - Small dose of Lasix prior to extubation
   - Re-intubate if fails
   # S/P
   Left total hip replacement: Recent surgery likely contributing to
   anemia. ASA and lovenox likely contributed to UGIB.
   - Follow up surgery recs regarding trauma
   - Consider getting in touch with OSH ortho with anticoagulation
   recommendations; we will, however, plan to hold anticoagulation given
   GI bleed
   # CAD/Chest pain
   Signs of demand ischemia on EKG. Anticipate will improve given
   resuscitation.
   - Check repeat EKG
   # CHF
   EF is 30-35% based on echo in
08.  Likely ischemic. Currently needs
   fluids and blood. Intubated and on low PEEP. If trouble will increase
   PEEP/FiO2. Appears near euvolemic.
   - Small dose Lasix then continue to hold diuretics for now
   # A fib. and rhythm
   Currently rate controlled. If SVT suspect volume depletion.
   - Hold on AV nodal agents in setting of hypotension.
   # FEN: IVF bolus, replete electrolytes prn, will put in NG tube to
   drain and prevent possible aspiration
   # Prophylaxis: Pneumoboots, no subcutaneous heparin [**1-18**] bleed
   # Access: PIVs, cordis
   # Communication: Patient
   # Code:  DNR/DNI confirmed with nephew [**Hospital 10959**] health care proxy)
   (elected to be intubated for GI procedure), nephew confirmed that
   re-intubation in the peri-extubation period would be acceptable.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2123-12-25**] 12:04 AM
   20 Gauge - [**2123-12-25**] 12:18 AM
   Arterial Line - [**2123-12-25**] 02:51 AM
   18 Gauge - [**2123-12-25**] 03:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2123-12-27 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-12-26**] 02:25 PM
   - Discussed with nephew [**Name (NI) 225**] and he agreed that peri-extubation
   re-intubation would be acceptable.
   - Given Lasix 20 mg IV once, then
   - Extubated successfully
   - Copious brown sputum with some difficulty clearing (so did not want
   to push too much Lasix)
   - Considered DDx of PNA, edema and COPD flare. Given low grade fever
   and sputum, desaturation to around 90%, borderline infiltrate on CXR,
   JVP at neck base, lack of wheeze, considered lower resp tract infection
   most likely. Cover aspiration (not coughing or swallowing well), VAP
   and HAP. Therefore sent sputum and started vanc/zosyn. Nebs also.
   - Been saturating from 90-94 % most of day with pressures 120-150
   systolic, per the cuff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-27**] 12:46 AM
   Piperacillin - [**2123-12-27**] 04:10 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2123-12-26**] 10:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-27**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 88 (76 - 112) bpm
   BP: 67/44(54) {59/37(46) - 109/78(92)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 75 kg
             Total In:
                                                                    594 mL
                                                                    492 mL
   PO:
             TF:
   IVF:
                                                                    594 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    290 mL
   Urine:
                                                                  2,610 mL
                                                                    290 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,366 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   Ventilator mode: Standby
   Vt (Spontaneous): 381 (381 - 628) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: ///14/
   Ve: 8 L/min
   Physical Examination
   General: Easy aroused to full alertness. Able to follow instructions
   (single step only tested). No acute distress. BMI likely WNLs,
   intubated. OG-tube in place and drained small quantity of rusted mucus.
   Looks younger than stated age.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Some coarse sounds, mostly transmitted. Copious secretions.
   CV: Regular rate and rhythm, normal S1 + S2, systolic ejection murmur
   radiates to neck. No rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Able to move hands to request. CNs II-XII intact.
   Labs / Radiology
   313 K/uL
   11.1 g/dL
   156 mg/dL
   1.6 mg/dL
   14 mEq/L
   3.1 mEq/L
   66 mg/dL
   120 mEq/L
   147 mEq/L
   33.3 %
   30.1 K/uL
        [image002.jpg]
                             [**2123-12-25**]  03:37 AM
                             [**2123-12-25**]  04:00 AM
                             [**2123-12-25**]  05:51 AM
                             [**2123-12-25**]  08:34 AM
                             [**2123-12-25**]  11:48 AM
                             [**2123-12-25**]  05:20 PM
                             [**2123-12-25**]  11:41 PM
                             [**2123-12-26**]  05:30 AM
                             [**2123-12-26**]  11:15 AM
                             [**2123-12-27**]  03:51 AM
   WBC
   18.3
   30.1
   Hct
   27.7
   33.4
   36.3
   34.0
   33.0
   33.0
   33.5
   33.3
   Plt
   283
   313
   Cr
   1.3
   1.6
   TCO2
   19
   Glucose
   181
   109
   156
   Other labs: PT / PTT / INR:22.5/36.0/2.1, Differential-Neuts:82.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   [**12-27**] CXR
 Final read pending
   [**12-26**] CXR
 Continued evidence of pulmonary vascular congestion and
   bilateral pleural effusions. The heart and mediastinal structures are
   unchanged. An endotracheal tube and nasogastric tube remain in place.
   [**12-25**] Sputum culture
 Positive for MRSA
   Assessment and Plan
   [**Age over 90 **] yo F s/p fall on [**12-13**] with recent left total hip replacement on
   Aspirin and Lovenox with episode of hematemesis and hematocrit 16 with
   guaiac positive stool and GI EGD with non-bleeding ulcerations in
   antrum and clots.
   # Upper GI Bleed
   EGD revealed antral ulcers, most consistent with H. pylori infection.
   This, in conjunction with ASA and lovenox s/p hip repair, likely
   resulted in UGIB. Hct 16.6 at presentation, down from baseline in low
   30s last year. OG demonstrated blood in stomach to complete picture.
   - Appreciate GI recommendations; will continue to follow, continue
   serial hematocrit
   - Continue transfusion hct goal > 21, or evidence of end-organ hypoxia
   - Continue to trend hematocrit, now [**Hospital1 **]
   - Maintain active type and screen
   - Maintain good access
   - Continue to assess BPs on right vs left and volume resuscitation with
   blood/fluid based on clinical status, MAP >65
   # Respiratory
   Patient is DNR/DNI, but we confirmed with her nephew that it would be
   acceptable to re-intubate in the peri-extubation period. She agreed to
   be intubated for her EGD. She has been doing well with minimal pressure
   support. She appeared volume up on CXR after receiving blood products.
   - Extubate
   - Small dose of Lasix prior to extubation
   - Re-intubate if fails
   # S/P
   Left total hip replacement: Recent surgery likely contributing to
   anemia. ASA and lovenox likely contributed to UGIB.
   - Follow up surgery recs regarding trauma
   - Consider getting in touch with OSH ortho with anticoagulation
   recommendations; we will, however, plan to hold anticoagulation given
   GI bleed
   # CAD/Chest pain
   Signs of demand ischemia on EKG. Anticipate will improve given
   resuscitation.
   - Check repeat EKG
   # CHF
   EF is 30-35% based on echo in
08.  Likely ischemic. Currently needs
   fluids and blood. Intubated and on low PEEP. If trouble will increase
   PEEP/FiO2. Appears near euvolemic.
   - Small dose Lasix then continue to hold diuretics for now
   # A fib. and rhythm
   Currently rate controlled. If SVT suspect volume depletion.
   - Hold on AV nodal agents in setting of hypotension.
   # FEN: IVF bolus, replete electrolytes prn, will put in NG tube to
   drain and prevent possible aspiration
   # Prophylaxis: Pneumoboots, no subcutaneous heparin [**1-18**] bleed
   # Access: PIVs, cordis
   # Communication: Patient
   # Code:  DNR/DNI confirmed with nephew [**Doctor First Name 10959**] health care proxy)
   (elected to be intubated for GI procedure), nephew confirmed that
   re-intubation in the peri-extubation period would be acceptable.
   # Disposition: ICU pending clinical improvement
   [**Age over 90 **] y/o with severe UGI bleed and hemorrhagic shock, s/p EGD.
   BP now improved, good U/O; of note lower BP consistently on L arm
   ?subclav stenosis.
   For GI bleed, Hct stable, s/p intervention.  PPI and rx H Pylori.
   Resp failure in setting of needing airway control for UGI bleed.  Now
   tolerating PSV5 PEEP 0, appears to be autodiuresing
 will plan
   extubatoin today after d/w family and clarify code status
 esp if
   extubation fails but thought due to a short term reversible issue (eg
   CHF, upper airway edema)
   Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2123-12-25**] 12:04 AM
   20 Gauge - [**2123-12-25**] 12:18 AM
   Arterial Line - [**2123-12-25**] 02:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: